US07629363B2
Step 1: Preparation of 4-[(2,4-difluorobenzyl)oxy]pyridine 1-oxide
2,4-difluorobenzyl alcohol (100. g, 0.694 mol) and 4-nitropyridine N-oxide (98. g, 0.700 mol)are combined with 250 g Cs2CO3 (1.1 eq) in 2.5 L anhydrous dimethylformamide and heated to 80° C. with stirring. The reaction was followed by 19F-NMR (crude reaction mixture with external D2O reference) and complete after 40 h. The mixture was filtered hot; product crystallized out on cooling. 90.21 g (55%) of white plates were collected by filtration and washed with diethyl ether. The mother liquor was diluted with 2.5 L diethyl ether and stored in the freezer overnight, yielding a second crop 68.76 g (41%, combined yield 96%). 1H-NMR (400 MHz, DMSO-d6) δ 8.06 (m, 2H), 7.61 (quartet, J=8.45 Hz, 1H), 7.30 (t, J=10.37 Hz, 1H), 7.12, (t, J=8.45 Hz, 1H), 7.09 (d, J=5.06 Hz, 2H), 5.14 (s, 2H). 19F-NMR (400 MHz, DMSO-d6) δ −109.43 (quintet, J=7.78 Hz, 1F), −113.82 (quartet, J=9.55 Hz, 1F). LC/MS tr=3.90 minutes (0-95% acetonitrile/water, 0.05% trifluoroacetic acid, over 6 minutes at 1 ml/min with detection at 215 nm, at 50° C.) ES-MS m/z 238 (M+H).

reactant | 2,4-difluorobenzyl alcohol | 0.694 mol | FC1=C(CO)C=CC(=C1)F | C7H6F2O
reactant | 4-nitropyridine N-oxide | 0.700 mol | [N+](=O)([O-])C1=CC=[N+](C=C1)[O-] | C5H4N2O3
reactant | Cs2CO3 | 250 g, 1.1 eq | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dimethylformamide | 2.5 L | CN(C=O)C | C3H7NO
solvent | acetonitrile water | C(C)#N.O
product | 4-[(2,4-difluorobenzyl)oxy]pyridine 1-oxide | yield 96% | FC1=C(COC2=CC=[N+](C=C2)[O-])C=CC(=C1)F | C12H9F2NO2
